US06727264B1
N-(3-{1-[(9-ETHYL-9H-CARBAZOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure F and Scheme R, without HOAc, using 9-ethyl-9H-carbazole-3-carbaldehyde and N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide: ESMS m/e: 452.6 (M+H)+.

reactant | 9-ethyl-9H-carbazole-3-carbaldehyde | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C15H13NO
reactant | N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
solvent | HOAc | CC(=O)O | C2H4O2
product | N-(3-{1-[(9-ETHYL-9H-CARBAZOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C30H33N3O
